US07642264B2
2-(3′-Nitro-biphenyl-3-yl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)pyrimidine was prepared from 2-(3-bromo-phenyl)-4-trifluoromethyl-6-(4-trifluoromethylphenyl)-pyrimidine (example E.3) (1.79 g, 4.0 mmol) and commercially available 3-nitrophenylboronic acid (0.8 g, 4.8 mmol) according to the general procedure VI. Obtained as a light grey solid (1.74 g, 89%). MS (EI) 489.2 [(M)+]; mp 219° C.

reactant | 2-(3-bromo-phenyl)-4-trifluoromethyl-6-(4-trifluoromethylphenyl)-pyrimidine | 4.0 mmol, 1.79 g | BrC=1C=C(C=CC1)C1=NC(=CC(=N1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C18H9BrF6N2
reactant | 3-nitrophenylboronic acid | 4.8 mmol, 0.8 g | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
product | 2-(3′-Nitro-biphenyl-3-yl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)pyrimidine | [N+](=O)([O-])C=1C=C(C=CC1)C1=CC(=CC=C1)C1=NC(=CC(=N1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C24H13F6N3O2
